US04506079
A mixture of 6-oxo-5-bromo-4,5,6,7-tetrahydrobenzothiazole (100 parts), 3-isopropylamino-1,2-propanediol (67 parts), p-toluenesulfonic acid monohydrate (99 parts) and toluene (1550 parts) is heated under reflux for 21 hours while drying the refluxing azeotropic mixture according to the method described in Example I. After cooling, the reaction mixture is adjusted to pH 9 by adding aqueous 2.5N-sodium hydroxide and formed organic layer is separated. The organic layer is washed with water, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The remaining 4'-isopropylaminomethyl-5-bromo-4,5,6,7-tetrahydrobenzothiazole-6-spiro-2'-[1,3]-dioxolane (156 parts) is dissolved in piperidine (1560 parts), and stirred for 49 hours on an oil bath heated at 95° to 100° C. The reaction mixture is concentrated under reduced pressure to leave residue which is mixed with ethyl acetate and water, shaken and fractionated to separate formed organic layer. The organic layer is washed with water, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. Residue (172 parts) is recrystallized from ethanol-hydrochloric acid giving 6-(3-isopropylamino-2-hydroxypropoxy)benzothiazole) (65 parts) in 57% yield. mp. 132°-134° C. (hydrochloride trihydrate).

reactant | 6-oxo-5-bromo-4,5,6,7-tetrahydrobenzothiazole | O=C1CC2=C(N=CS2)CC1Br | C7H6BrNOS
reactant | 3-isopropylamino-1,2-propanediol | C(C)(C)NCC(CO)O | C6H15NO2
reactant | p-toluenesulfonic acid monohydrate | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | toluene | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 6-(3-isopropylamino-2-hydroxypropoxy)benzothiazole | 57% yield | C(C)(C)NCC(COC1=CC2=C(N=CS2)C=C1)O | C13H18N2O2S
